US04348322
A mixture of 4-chlorobiphenyl (18.8 g.) and aluminium chloride (29.5 g.) was stirred in chlorobenzene (150 ml.) at 55°-60° C., in a pressure vessel. The vessel was pressurised to 2 bars with an equimolar mixture of carbon monoxide and hydrogen chloride (prepared by the action of 98-100% formic acid on chlorosulphonic acid). These reaction conditions were maintained for a period of 4 days. After this time the reaction mixture was added, with stirring, to a mixture of ice (500 g.) and water (500 ml.). The organic phase was separated and the aqueous phase was extracted with chlorobenzene (50 ml.). The combined organic phases were then washed successively with 2 M hydrochloric acid (100 ml.) and water (2×100 ml.), and evaporated onto chromotographic silica gel (40 g.). The residue obtained was added to the top of a column of chromatographic silica gel (160 g.) made up in carbon tetrachloride. The column was then washed through with carbon tetrachloride (2000 ml.) and then eluted with chloroform (2000 ml.) The fractions containing material of Rf value (system: SiO2 ; methylene chloride/carbon tetrachloride 1:1 v/v) were combined and evaporated to give 4-(4-chlorophenyl)benzaldehyde (7.3 g.) m.p. 108°-112° C. (after recrystallisation from aqueous acetonitrile).

reactant | 4-chlorobiphenyl | 18.8 g | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | aluminium chloride | 29.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen chloride | Cl | ClH
reactant | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 500 ml | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | 4-(4-chlorophenyl)benzaldehyde | 7.3 g | ClC1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C13H9ClO
